US07405305B2
3-(5-Methoxybenzofur-7-yl)-4-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]pyrrole-2,5-dione
Dissolve 3-(5-methoxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione (0.058 g, 0.118 mmol) in 10 mL dichloromethane. Add carbon tetrabromide (0.077 g, 1 equivalent) and triphenyl phosphine (0.061 g, 1 equivalent). Stir for 10 min, add another equivalent of both reagents. Stir 10 min then dilute with dichloromethane and wash with water followed by brine. Dry over magnesium sulfate then filter and concentrate. Purification by column chromatography (2% methanol:dichloromethane) affords the 3-(5-methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl)pyrrole-2,5-dione. 3-(5-Methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl]pyrrole-2,5-dione is dissolved in 1.5 mL 1-methyl-2-pyrrolidinone and add dimethylamine (2M solution in tetrahydrofuran, 0.3 mL, 5 equivalents). Heat to 60° C. for 16 hrs. Extract with ethyl acetate versus water, concentrate organic layer. Redissolve in a minimal amount of methanol and load onto an SCX™ Varian column (pretreated with a 5% acetic acid: methanol solution). Wash with methanol and ethyl acetate to remove impurities, flush with 2M ammonia methanol to recover product. ES(M++H)444.0.

reactant | 3-(5-Methoxybenzofur-7-yl)-4-[1-(3-bromopropyl)-1H-indol-3-yl]pyrrole-2,5-dione | COC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCBr)=O)=O | C24H19BrN2O4
reactant | dimethylamine | 2M, 0.3 mL, 5 equivalents | CNC | C2H7N
solvent | 1-methyl-2-pyrrolidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(5-Methoxybenzofur-7-yl)-4-[1-(3-dimethylaminopropyl)-1H-indol-3-yl]pyrrole-2,5-dione | COC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCN(C)C)=O)=O | C26H25N3O4
